US04477553
(Resorcinol-acetophenone resin)
To a solution of 550 g. of resorcinol in 1 l. of dioxane were added 600 g. of acetophenone and 0.5 ml. of 35% conc. hydrochloric acid as a catalyst. The resulting mixture was heated with stirring for 3 hours and then poured into 5 l. of a cold water to give a pale brown powdery resin.

reactant | resorcinol | C1(O)=CC(O)=CC=C1 | C6H6O2
reactant | dioxane | O1CCOCC1 | C4H8O2
reactant | acetophenone | C(C)(=O)C1=CC=CC=C1 | C8H8O
catalyst | hydrochloric acid | Cl | ClH
solvent | water | O | H2O
product | Resorcinol-acetophenone | C1(O)=C(C(O)=CC=C1)CC(=O)C1=CC=CC=C1 | C14H12O3
